US04959092
1-[4-(2,3-dihydro-2-methyl-5-benzofuranylmethyloxy)phenyl]-3,3-dimethylurea
6.5 g of 4-(2,3-dihydro-2-methyl-5-benzofuranylmethyloxy)aniline was dissolved into 70 ml of N,N-dimethylformamide, and 2.8 g of triethylamine was added thereto. 3.8 g of N,N-dimethylcarbamoyl chloride was slowly added dropwise thereto. After the mixture was stirred at room temperature, the reaction mixture was poured into water and extracted with ethyl acetate. After the organic layer was washed with water, it was dried over anhydrous magnesium sulfate and ethyl acetate was distilled off. The residue was subjected to silica gel column chromatography using ethyl acetate/n-hexane (2/1) as a developer to obtain 5.8 g of Compound No. 41 shown in Table 2.

reactant | 4-(2,3-dihydro-2-methyl-5-benzofuranylmethyloxy)aniline | 6.5 g | CC1OC2=C(C1)C=C(C=C2)COC2=CC=C(N)C=C2 | C16H17NO2
reactant | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 2.8 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylcarbamoyl chloride | 3.8 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | water | O | H2O
product | 1-[4-(2,3-dihydro-2-methyl-5-benzofuranylmethyloxy)phenyl]-3,3-dimethylurea | 5.8 g | CC1OC2=C(C1)C=C(C=C2)COC2=CC=C(C=C2)NC(=O)N(C)C | C19H22N2O3
